US06919379B2
A suspension of N-[(2S)-3-(1,3-benzothiazol-2-ylthio)-2-hydroxypropyl]-phthalimide (25.5 g, 68.8 mmol) in EtOH (550 mL) was treated with hydrazine hydrate (5.3 mL, 109 mmol) and heated to 50° C. for 3 h. The reaction was cooled, filtered and the solvents were removed under reduced pressure. The crude residue was taken up in methylene chloride (250 mL) and treated with di-tert-butyl dicarbonate (22.5 g, 103 mmol) then allowed to stir overnight. The solvents were then removed under reduced pressure to give crude tert-butyl (2S)-3-(1,3-benzothiazol-2-ylthio)-2-hydroxypropylcarbamate. Purification on silica gel eluting with methylene chloride to start and then switching to ethyl acetate provided tert-butyl (2S)-3-(1,3-benzothiazol-2-ylthio)-2-hydroxypropylcarbamate (33.5 g) as an oil which was contaminated with di-tert-butyl dicarbonate residues. This compound was used directly in the next step. Data for tert-butyl (2S)-3-(1,3-benzothiazol-2-ylthio)-2-hydroxypropylcarbamate: 1H NMR (300 MHz, CDCl3) δ 7.85 (d, 1H), 7.76 (d, 1H), 7.45 (dd, 1H), 7.35 (dd, 1H), 5.35 (m, 1H), 5.05 (m, 1H), 4.15 (m, 1H), 3.57-3.40 (m, 3H), 3.35-3.25 (m, 1H), 1.48 (s, 9H).

reactant | N-[(2S)-3-(1,3-benzothiazol-2-ylthio)-2-hydroxypropyl]-phthalimide | 68.8 mmol, 25.5 g | S1C(=NC2=C1C=CC=C2)SC[C@H](CN2C(C=1C(C2=O)=CC=CC1)=O)O | C18H14N2O3S2
reactant | hydrazine hydrate | 109 mmol, 5.3 mL | O.NN
reactant | di-tert-butyl dicarbonate | 103 mmol, 22.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 550 mL | CCO | C2H6O
product | tert-butyl (2S)-3-(1,3-benzothiazol-2-ylthio)-2-hydroxypropylcarbamate | S1C(=NC2=C1C=CC=C2)SC[C@H](CNC(OC(C)(C)C)=O)O | C15H20N2O3S2
